US05091274
To a lithium hydroxide (LiOH.2H2O, 4.20 g, 0.10 mol) aqueous solution, HSO3CF3 (15.01 g, 0.10 mol) was added dropwise. Water was evaporated from the resulting solution in a rotavapor, the residue was recrystallized in ethyl cyanide/toluene to yield LiSO3CF3. The LiSO3CF3 obtained was then dried under vaccum at 140° C. for 24 hr.

reactant | lithium hydroxide | 0.10 mol, 4.20 g | [OH-].[Li+]
reactant | HSO3CF3 | 0.10 mol, 15.01 g | S(=O)(=O)OC(F)(F)F | CHF3O3S
product | LiSO3CF3 | [Li]S(=O)(=O)OC(F)(F)F | InChI=1S/CF3O3S.Li/c2-1(3,4)7-8(5)6;
